US04061682
Preparation of dibenzyl ether
Benzyl chloride (12.6 g; 0.1 mole), a 50 percent aqueous solution of sodium hydroxide (35 g; 0.44 mole), tetra-n-butylammonium bisulfate (1.7 g. 0.005 mole), and sodium acetate (0.4 g; 0.005 mole) were added to a reaction vessel fitted with a thermometer and magnetic stirrer. The contents were then stirred and heated to 60° C. The reaction was slightly exothermic raising the temperature of the reaction mass to 63° C. The reaction mass was sampled at various intervals and the samples were analyzed by gas-liquid chromatography. The results are tabulated in Table I. Upon completion of the reaction, the reaction mass consisted of a lemon yellow organic layer, a heavy, caustic emulsion and solid sodium chloride on the flask bottom.

reactant | Benzyl chloride | 0.1 mole, 12.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydroxide | 0.44 mole, 35 g | [OH-].[Na+]
reactant | sodium acetate | 0.005 mole, 0.4 g | C(C)(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
catalyst | tetra-n-butylammonium bisulfate | 0.005 mole, 1.7 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
product | dibenzyl ether | C(C1=CC=CC=C1)OCC1=CC=CC=C1 | C14H14O
